US05677321
7-Chloro-6-aminobenzothiazole
To a solution of 6-aminobenzothiazole (2.0 g, 13.4 mmol) in 100 mL of AcOH was added a solution of Cl2 saturated AcOH and the resulting reaction mixture was stirred for 1 h at 25° C. Reaction mixture was concentrated in vacuo, yielding a yellow solid which was dissolved in EtOAc and washed with aq. NaHCO3. Organic layer was dried over Na2SO4 and concentrated in vacuo, yielding an oil which was subjected to column chromatography (10-50% EtOAc/n-Hexane) to obtain 7.8 g (34 mmol, 80% ) of the desired product.

reactant | 6-aminobenzothiazole | 13.4 mmol, 2.0 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | Cl2 | ClCl | Cl2
reactant | EtOAc n-Hexane | CCOC(=O)C.CCCCCC
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Chloro-6-aminobenzothiazole | 34 mmol, 7.8 g, 80% | ClC1=C(C=CC=2N=CSC21)N | C7H5ClN2S
